Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP: ___.  
PRIMARY ONCOLOGIST:  ___, MD 
PRIMARY DIAGNOSIS: Adenocarcinoma of the right upper lung,
reported as stage IV disease by PET/CT but negative brain MRI. 
PD-L1 strongly positive (80%), no actionable mutations (EGFR-,
ALK-) 
TREATMENT REGIMEN:  pembrolizomab/alimta/carboplatin 
CHIEF COMPLAINT: Syncope 

HISTORY OF PRESENT ILLNESS:
Mr. ___ is a pleasant ___ w/ HTN, DL, etoh use, and recently
diagnosed met NSCLC currently on
pembrolizumab/pemetrexed/carboplatin (___) who presents 
from
urgent care for concerns of a syncopal episode yesterday now 
with
injury to his right hand. 

He states his symptoms started ___ in ___ where he lives
during the ___. Previously to that he was robustly healthy,
walking 10 miles daily. He developed a bout of what was thought
to be bronchitis/pneumonia but failed 4 different antibiotic
courses. This lead to a TTE which reportedly revealed LV
dysfunction and was started on Dilt in addition to the 
lisinopril
he takes for HNT. No improvement and consequently had a CT chest
which revealed a RUL pulmonary mass involving the pulmonary
artery. He returned to ___ for treatment and is followed 
by
Dr ___ in oncology. He was just started on C1D1
pembro/pemetrexed/carboplatin ___ which he states he has
tolerated well.  

However he has been having numerous presyncopal episodes brought
on by a self-induced cough. He states he coughs up "thick clear
spit," rarely blood tinged, and they are largely self-induced
coughs in attempt to clear the mucous. He tried combivent and 
his
dyspnea and cough have improved. However when he has these
coughing epsiodes, he feels "wiggly on the inside," and
presyncopal. This occurs roughly 3 times a week. He passed out 
on
the evening of ___ when he felt presyncopal and passed out but
was able to recollect himself. He had a rib xray which did not
reveal any fracture.

Last night on ___ he was preparing dinner when he was in his
kitchen and he spontaneously found himself on the floor. He had
no prodromal sx and denied any micturition or defecation. He was
on the floor "for a very short period of time," noting the food
he was cooking was "perfectly fine." He hit his head, left knee
and right hand. He had 8 oz of Chardonnay before this and his
usual is a total of 12 ounces every day. 

He denied any CP, no worsening of his baseline SOB, F/C/N/V,
otherwise feels himself. He went to sleep and this am had a
swollen knuckle so went to the urgent care and they referred him
here. 

In ED, vitals, labs, and imaging neg for an acute process and 
was
admitted for further management of syncope. 

On arrival to ___, he denied any headaches nor vision changes.
Denied any neck pain. Has limited ROM of neck chronically and
this is unchanged from baseline. He admits to back spasms which
started from the fall on ___ in his mid R back and resolves w/
ibuprofen once a day and ativan at night. He denied any 
radiation
into his legs. His L knee pain is resolving. He denied any
significant fatigue and otherwise feels like his back in his
usual state of health. 

REVIEW OF SYSTEMS:
12 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Adenocarcinoma of the right upper lung, reported as stage IV
disease by PET/CT but negative brain MRI.  PD-L1 strongly
positive (80%), no actionable mutations (EGFR-, ALK-)

He began to have symptoms of  Bronchitis in ___ but 
did
not seek medical attention until ___.  There was
abnormality on the chest x-ray felt to be pneumonia but his
symptoms persisted after two months trial of antibiotics.  Since
early ___, he had undergone a series of workup as 
outlined
below and was confirmed to have adenocarcinoma of right upper
lung.  All of these were done in ___.  

___ CTA of chest: a right perihilar mass, 3 cm, and post
obstructive consolidation at the right upper lobe; mediastinal
and right hilar lymphadenopathy with ___ centric narrowing
around the right main pulmonary artery and mainstem bronchus. 
Additional narrowing is seen at the right upper lobe apical
segment with associated atelectasis/consolidation.  There is no
evidence of pulmonary embolism. 

___ Bronchoscopy and biopsy:
Right mainstem branch biopsy - invasive moderately 
differentiated
adenocarcinoma of the lung,  TTF-1+, Napsin-A+. EGFR mutation-,
ALK rearrangement-, PD-L1+ 80%.
 
___ PET/CT: report not available but the patient was told 
that
he has stage IV disease due to chest wall involvement and
cervical lymph node involvement. 

___ brain MRI: report not available but said to be negative
for metastasis. 

___: Cycle 1 pembrolizomab/alimta/carboplatin 

PAST MEDICAL HISTORY (per OMR):
Hypertension, essential 
Hyperlipidemia 
Cluster headaches 
History of testicular cancer, ___ s/p surgeries, chemotherapy.  

Esophageal reflux 
___ esophagus 
Alcohol use 
Cataract, nuclear sclerotic senile 
Colon polyps 
Central serous chorioretinopathy of left eye 
Elevated hemoglobin A1c 
PVD (posterior vitreous detachment) 
Ocular hypertension 
Macular pucker 
Diastolic dysfunction

 
Social History:
___
Family History:
FAMILY HISTORY (per OMR):
family history includes Alzheimer's in his mother; Cancer in his
father; ___ in his father; ___ - Type II in 
his
mother. Father was a smoker, died of lung cancer in his ___.

 
Physical Exam:
Exam on admission:
=========================
VITAL SIGNS: 98.5 PO 132 / 75 88 20 95 RA
General:  NAD, Resting in bed comfortably upright
HEENT:  MMM, no OP lesions, has a small ecchymotic non-tender
hematoma above the L eye, pupils 3-->2 mm b/l, no cervical spine
TTP, limited ROM in all directions but pt notes this is 
baseline,
no pain on ROM
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/R, No respiratory distress but has soft exp
wheezes
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors, hematoma above the R hand but
neurovascular intact (able to fully grasp my hand but causes
pain)
SKIN:  Scattered seborrheic keratosis, ecchymotic patch on the R
lower back
NEURO: CN III-XII intact, strength b/l ___ intact, no 
nystagmus
PSYCH: Thought process logical, linear, future oriented
ACCESS:  PIV
.
Exam on discharge:
=========================
24 HR Data (last updated ___ @ 723)
    Temp: 97.9 (Tm 98.3), BP: 137/82 (133-146/80-89), HR: 87
(85-95), RR: 20 (___), O2 sat: 96%% (95-98), O2 delivery: RA  

General:  NAD, Resting in bed comfortably upright
HEENT:  MMM, no OP lesions, has a small ecchymotic non-tender
hematoma above the L eye, pupils 3-->2 mm b/l
CV:  RRR without m/g/r
PULM: CTAB, transmitted end expiratory upper airway breath
sounds.
ABD:  BS+, soft, NTND, no peritoneal signs 
ACCESS:  PIV
 
Pertinent Results:
Labs on admission:
==============================
___ 12:53PM BLOOD WBC-6.0 RBC-4.38* Hgb-13.7 Hct-40.1 
MCV-92 MCH-31.3 MCHC-34.2 RDW-12.7 RDWSD-42.7 Plt ___
___ 12:53PM BLOOD Neuts-56.6 ___ Monos-16.1* 
Eos-4.5 Baso-0.3 Im ___ AbsNeut-3.40 AbsLymp-1.17* 
AbsMono-0.97* AbsEos-0.27 AbsBaso-0.02
___ 12:53PM BLOOD ___ PTT-28.6 ___
___ 12:53PM BLOOD Plt ___
___ 12:53PM BLOOD Glucose-105* UreaN-19 Creat-0.6 Na-136 
K-4.5 Cl-98 HCO3-23 AnGap-15
___ 12:53PM BLOOD Albumin-4.3 Calcium-9.3 Phos-3.5 Mg-2.2
___ 12:53PM BLOOD cTropnT-<0.01
___ 12:53PM BLOOD ALT-24 AST-20 LD(LDH)-287* AlkPhos-68 
TotBili-0.4
___ 12:53PM BLOOD TSH-2.3
___ 07:10AM BLOOD Cortsol-10.4
___ 12:57PM BLOOD Lactate-1.1
.
Labs on discharge:
==============================
___ 07:35AM BLOOD WBC-3.9* RBC-4.23* Hgb-13.3* Hct-38.8* 
MCV-92 MCH-31.4 MCHC-34.3 RDW-12.8 RDWSD-42.3 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-111* UreaN-14 Creat-0.6 Na-140 
K-4.5 Cl-102 HCO3-25 AnGap-13
___ 07:35AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.2
.
Imaging / reports:
==============================
CT Head:
FINDINGS:  
There is no evidence of infarction,hemorrhage,edema,or mass 
effect. Ventricles and sulci are prominent consistent with 
age-related global parenchymal loss.  
There is no evidence of fracture.  There is mild mucosal 
thickening the 
bilateral anterior ethmoid air cells and maxillary sinuses.  The 
remaining 
visualized portion of the paranasal sinuses, mastoid air cells, 
and middle ear cavities are clear.  The visualized portion of 
the orbits are unremarkable.  
IMPRESSION:  
No acute intracranial abnormality. 
.
CTA Chest:
IMPRESSION:  
Right upper pulmonary mass with extension into the mediastinum 
and significant invasion of the right pulmonary artery.  No 
pulmonary embolus demonstrated in the right lower or in the left 
pulmonary arterial vasculature. 
Severe attenuation of the mid superior vena cava by the right 
upper pulmonary mass and significant bronchial involvement by 
the pulmonary mass as detailed above. 
.
TTE:
CONCLUSION:
The left atrium is normal in size. There is no evidence for an 
atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. Global left ventricular systolic function is normal. 
The visually estimated left ventricular ejection fraction is 
55-60%. There is Grade I diastolic dysfunction. The right 
ventrlcle is not well seen with normal free wall motion. The 
aortic sinus diameter is normal. The aortic arch diameter is 
normal. The aortic valve leaflets (3) appear structurally 
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral leaflets are mildly thickened with no 
mitral valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally normal. There 
is physiologic
tricuspid regurgitation. The pulmonary artery systolic pressure 
could not be estimated. There is a trivial pericardial effusion.
IMPRESSION: Suboptimal image quality. Normal LV systolic 
function. Trivial anterior pericardial effusion. LVOT not 
assessed.
.
R hand XR:
IMPRESSION:  
No comparison.  3 projections of the right hand are provided.  
There is 
minimal periarticular soft tissue swelling at the radial bases 
of the index finger.  No other soft tissue abnormalities are 
noted.  No dislocation, no cortical discontinuation suggestive 
of fracture.  Mild degenerative changes at the PIP and DIP 
joints ___. 
.
Microbiology:
==============================
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
___ w/ HTN, EtOH use, h/o testicular cancer in remission, agent
orange exposure, former smoker, w/ recently diagnosed metastatic 
PD-L1
positive NSCLC currently on pembrolizumab/pemetrexed/carboplatin
(___) who presented to the hospital with a second syncopal 
episode in one week, in the setting of multiple pre-syncopal 
episodes that occurred with coughing spells.

# Syncope
Etiology of his presyncopal and syncopal episodes was thought to 
most likely be due to vasovagal episodes in the setting of 
self-induced cough (in attempt to clear mucous), with possible 
vagal nerve compression exacerbated by increased intrathoracic 
pressure. His symptoms are c/w this considering the prodromal 
symptoms with the coughing. However on ___ he does not recall 
any of the events leading to the syncope. He ___ have had 
transient hypoxia in the setting of invading mainstem bronchus 
mass vs intermittent vascular compression leading to poor 
cerebral perfusion vs arrhythmia from myocardial irritation. 
However, patient was observed on telemetry with no events for 
over 36 hours. Patient was worked up for hypophysitis which 
showed normal TSH and AM cortisol. Cardiac ischemic work up was 
negative and no symptoms to suggest seizure (and no post-ictal 
state). NCHCT was without acute change and CTA negative for PE. 
However, CTA did show 
"Right upper pulmonary mass with extension into the mediastinum 
and significant invasion of the right pulmonary artery...Severe 
attenuation of the mid superior vena cava by the right upper 
pulmonary mass and significant bronchial involvement by the 
pulmonary mass as detailed above."
Patient was treated supportively for cough with inhalers, 
mucinex and benzonatate.

# Stage IV Lung Adenocarcinoma 
Per atrius chart review, patient diagnosed in ___. Compared
to CT read from Atrius records (imaging not available), CTA in 
ED
is reportedly larger. C1D1 pembrolizomab/alimta/carboplatin ___. 


# R Hand Hematoma
Likely from blunt trauma during fall. No fracture seen on xray.
Swelling improved during admission. 

# HTN: Held meds as above
# GERD: continued omeprazole
# Insomnia: continued ativan qhs

TRANSITIONAL ISSUES:
[] HELD diltiazem 120mg ER at discharge given 
presyncopal/syncopal episodes and BP under good control. 
Restarted lisinopril 20mg. Please evaluate whether to restart 
diltiazem
[] STARTED guaifenesin, benzonatate for cough
[] STARTED low-dose flexeril for back spasms s/p fall, written 
for short 5 day course.
[] CTA did show 'Right upper pulmonary mass with extension into 
the mediastinum and significant invasion of the right pulmonary 
artery as well as Severe attenuation of the mid superior vena 
cava by the right upper pulmonary mass and significant bronchial 
involvement by the pulmonary mass as detailed above.
-- Given concern regarding potential of mass to be decreasing 
SVC blood return (and perhaps contributing to syncopal episodes 
with coughing), please discuss if there is a role for XRT to the 
main obstructing mass

#Code status: full, confirmed on admission
#HCP: ___, daughter, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam ___ mg PO QHS 
2. Ibuprofen 400 mg PO DAILY:PRN Pain - Severe 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Ipratropium-Albuterol Inhalation Spray 1 INH IH TID 
6. Omeprazole 20 mg PO DAILY 
7. Lisinopril 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. FoLIC Acid ___ mcg PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*45 Capsule Refills:*0 
2.  Cyclobenzaprine 5 mg PO BID:PRN muscle spasm 
Do not drive while using this medication 
RX *cyclobenzaprine 7.5 mg 1 tablet(s) by mouth BID PRN Disp 
#*10 Tablet Refills:*0 
3.  GuaiFENesin ER 1200 mg PO Q12H 
RX *guaifenesin 1,200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*30 Tablet Refills:*0 
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  FoLIC Acid ___ mcg PO DAILY  
6.  Ibuprofen 400 mg PO DAILY:PRN Pain - Severe  
7.  Ipratropium-Albuterol Inhalation Spray 1 INH IH TID  
8.  Lisinopril 20 mg PO DAILY  
9.  LORazepam ___ mg PO QHS  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12. HELD- Diltiazem Extended-Release 120 mg PO DAILY  This 
medication was held. Do not restart Diltiazem Extended-Release 
until you are told to restart it by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
===============
Syncope

Secondary:
===============
Stage IV Lung Adenocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure taking part in your care during your 
admission to ___.

Why you were admitted to the hospital
============================================
- You had multiple episodes where you felt light-headed after 
coughing, and two episodes where you lost consciousness, the 
second of which you hit your head and your hand.

What happened during the hospitalization:
============================================
- You underwent a number of tests, including a physical exam, 
laboratory tests, and imaging
- An electrocardiogram and blood tests were negative for heart 
damage
- A CT scan of your chest was negative for a clot in your lungs 
as a cause of your fainting, but did show the known lung mass
- A CT scan of your head did not show any cause for your 
fainting
- Your heart rhythm was monitored and was normal

What you should do when you go home:
============================================
- Please continue to take all of your medicines as prescribed. 
There have been some changes to your medicines, as indicated 
below.
- Follow up with the appointments as listed below.
- Should you notice any new or concerning symptoms, such as 
lightheadedness or shortness of breath, or any symptom listed 
below, please seek immediate medical attention.

We wish you the best,
Your ___ Oncology Care Team
 
Followup Instructions:
___